US04022766
3,7-Dihydro-5,8-diphenyl-6-methyl-pyrrolo[3,4-e][1,4]-diazepine- 2-(1H)-one.
To a solution of 7 g. of anhydrous hydrazine in 350 ml. of methano 27.8 g. of 3-benzoyl-2-methyl-5-phenyl-4-(phthalimidoacetamido)pyrrole are added and the mixture is refluxed for one hour. The solvent is evaporated off and 150 ml. of concentrated hydrochloric acid are added to the residue. After refluxing for one hour the solid precipitated is eliminated by filtration and the filtrate is diluted with water and then alkalinized with 10% sodium hydroxide. The precipitate is crystallized twice from methanol yielding 9 g. of the title product which melts at 310°-12° C.

reactant | hydrazine | NN | H4N2
reactant | 3-benzoyl-2-methyl-5-phenyl-4-(phthalimidoacetamido)pyrrole | C(C1=CC=CC=C1)(=O)C1=C(NC(=C1NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C2=CC=CC=C2)C | C28H21N3O4
product | 3,7-Dihydro-5,8-diphenyl-6-methyl-pyrrolo[3,4-e][1,4]-diazepine- 2-(1H)-one | C1(=CC=CC=C1)C=1C=2C(NC(CN1)=O)=C(NC2C)C2=CC=CC=C2 | C20H17N3O
